US08957070B2
N-[2-(1,3-Benzothiazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide
A mixture of 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide (0.30 g), 2-aminothiophenol (0.10 mL), concentrated hydrochloric acid (0.5 mL) and ethylene glycol (6 mL) was stirred at 100° C. overnight. Water was added to the reaction mixture, and the obtained crystals were filtrated, washed with water and dried. The obtained crystals were subjected to silica gel column chromatography and the title compound (0.14 g, yield 38%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (2:3, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point 201-202° C.

reactant | 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 0.30 g | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(N)=S | C13H11N3O2S3
reactant | 2-aminothiophenol | 0.10 mL | NC1=C(C=CC=C1)S | C6H7NS
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
reactant | ethylene glycol | 6 mL | C(CO)O | C2H6O2
solvent | Water | O | H2O
product | N-[2-(1,3-Benzothiazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 0.14 g, yield 38% | S1C(=NC2=C1C=CC=C2)C=2NC1=C(C=CC=C1C2)NS(=O)(=O)C=2SC=CC2 | C19H13N3O2S3
